US09376422B2
Step 4: Synthesis of methyl 5-chloro-2-ethyl-3-nitrobenzoate
A solution of methyl 5-chloro-2-ethylbenzoate (5.12 g, 25.8 mmol) in concentrated H2SO4 (31 ml, 587 mmol) was cooled to −5° C. in an acetone/ice bath. A mixture of concentrated nitric acid (2.15 ml, 33.5 mmol) and concentrated H2SO4 (2.0 ml, 37.5 mmol) was added dropwise to the reaction mixture at −5° C. over 15 minutes. The pale yellow reaction mixture was stirred at −5° C. for 1 hour before being poured onto ice (500 ml) and this was extracted with EtOAc (3×100 ml). The combined organic phases were washed with deionized water (100 ml) and then brine (100 ml). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. LCMS and NMR showed ˜30% hydrolysis of the ester. The crude material was dissolved in methanol (30 ml) and cooled to 0° C. under nitrogen where SOCl2 (2.25 ml, 30.93 mmol) was added slowly. The reaction mixture was then heated to reflux for 6 hours before being concentrated under reduced pressure to give 6.18 g (98%) of the title compound containing material as an orange oil which was a 1:1 mixture of 3-nitro:6-nitro isomers along with some ethyl ester. The material was suitable for use in the next step without any further purification.

reactant | methyl 5-chloro-2-ethylbenzoate | 25.8 mmol, 5.12 g | ClC=1C=CC(=C(C(=O)OC)C1)CC | C10H11ClO2
reactant | H2SO4 | 587 mmol, 31 ml | OS(=O)(=O)O | H2O4S
reactant | nitric acid | 33.5 mmol, 2.15 ml | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 37.5 mmol, 2.0 ml | OS(=O)(=O)O | H2O4S
reactant | SOCl2 | 30.93 mmol, 2.25 ml | O=S(Cl)Cl | Cl2OS
solvent | methanol | 30 ml | CO | CH4O
product | methyl 5-chloro-2-ethyl-3-nitrobenzoate | 6.18 g, 98% | ClC=1C=C(C(=C(C(=O)OC)C1)CC)[N+](=O)[O-] | C10H10ClNO4
